US08076488B2
Preparation of 1,1-Dioxo-2,3-dihydro-1H-benzo[b]thiophen-5-ylamine
Palladium on carbon (25 mg) was placed under an inert atmosphere and suspended in 1:1 v/v EtOH/THF (10 mL). A solution of 5-nitrobenzo[b]thiophene 1,1-dioxide (250 mg, 1.18 mmol) in EtOH/THF (1:1) was then added, and the reaction mixture placed under H2 atmosphere (1 Atm pressure) and stirred at RT for 3 h. Reaction is filtered through a Celite pad and washed well with MeOH to obtain the title compound (200 mg, 92%) as a brown solid: TLC (10% MeOH/DCM w/5% NH4OH), Rf=0.40; LC MS m/z 184.1 (MH+).

reactant | 5-nitrobenzo[b]thiophene 1,1-dioxide | 1.18 mmol, 250 mg | [N+](=O)([O-])C1=CC2=C(S(C=C2)(=O)=O)C=C1 | C8H5NO4S
catalyst | Palladium on carbon | 25 mg | [Pd] | Pd
solvent | EtOH THF | CCO.C1CCOC1
solvent | EtOH THF | 10 mL | CCO.C1CCOC1
product | 1,1-Dioxo-2,3-dihydro-1H-benzo[b]thiophen-5-ylamine | 200 mg, 92% | O=S1(C2=C(CC1)C=C(C=C2)N)=O | C8H9NO2S
